US05294612
To a solution of 1-ethoxyethylidene malononitrile (27.2 g, 0.2 mol) in ethanol (50 ml) was added methyl hydrazine (9.4 g, 0.2 mol). The reaction mixture was stirred at room temperature for 3 hours and the product was collected by filtration to afford 23.6 g (87%) of 1,3-dimethyl-5-amino-1H-pyrazole-4-carbonitrile as white crystals, m.p. 193°-195° C. when dried in high vacuum.

reactant | 1-ethoxyethylidene malononitrile | 0.2 mol, 27.2 g | C(C)OC(C)=C(C#N)C#N | C7H8N2O
reactant | methyl hydrazine | 0.2 mol, 9.4 g | CNN | CH6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,3-dimethyl-5-amino-1H-pyrazole-4-carbonitrile | 23.6 g, 87% | CN1N=C(C(=C1N)C#N)C | C6H8N4
